US05123951
A mixture of 9.22 grams (0.04 mole) of 4-bromo-2-methylphenyl isocyanate, 5.78 grams (0.04 mole) of ethyl nitroacetate, 6.01 grams (0.04 mole) of anhydrous potassium carbonate and 90 milliliters of benzene was stirred and heated under reflux for 3 hours then cooled and stirred at room temperature for a period of about 16 hours. The precipitated material was filtered off and thoroughly triturated with 200 milliliters of ice water, filtering to remove a precipitate which was discarded. Chilling and acidification of the filtrate with concentrated HCl caused precipitation of a yellow-white solid which was collected, water-washed and air-dried. Recrystallization from benzene-cyclohexane (3:1) gave 3.38 grams (0.01 mole) of ethyl 3-[(4-bromo-2-methylphenyl)amino]-2-nitro-3-oxopropanoate as white crystals having a melting point of 126° C.-129° C.

reactant | 4-bromo-2-methylphenyl isocyanate | 0.04 mole, 9.22 grams | BrC1=CC(=C(C=C1)N=C=O)C | C8H6BrNO
reactant | ethyl nitroacetate | 0.04 mole, 5.78 grams | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
reactant | potassium carbonate | 0.04 mole, 6.01 grams | C([O-])([O-])=O.[K+].[K+]
solvent | benzene | 90 milliliters | C1=CC=CC=C1 | C6H6
product | ethyl 3-[(4-bromo-2-methylphenyl)amino]-2-nitro-3-oxopropanoate | 0.01 mole, 3.38 grams | BrC1=CC(=C(C=C1)NC(C(C(=O)OCC)[N+](=O)[O-])=O)C | C12H13BrN2O5
